US08648001B2
A three-necked flask in which the internal atmosphere was sufficiently replaced with nitrogen gas was charged with 60 ml of a THF solution containing 0.04 mol of ethylamine in a nitrogen stream. 30 ml of a hexane solution containing 0.04 mol of BuLi was slowly added to the ethylamine solution cooled to −10° C. using a dripping funnel. After the addition, the mixture was gradually heated and reacted at 50° C. for two hours. Another container of which the internal atmosphere was purged with nitrogen was charged with 60 ml of a toluene solution containing 0.02 mol of t-butylethyldimethoxysilane and cooled to −10° C. The above slurry of Li salt of methylamine was slowly added dropwise to the cooled solution under nitrogen seal. After the addition, the mixture was reacted at 50° C. for three hours. The reaction mixture was separated into a solid and a solution by centrifugation. The solid was washed with 20 ml of toluene and added to the solution. The solvent was evaporated from the solution under reduced pressure and the residue was distilled under reduced pressure to obtain bis(methylamino)-t-butylethylsilane. The elementary analysis confirmed that the compound consists of C: 55.01% (55.11%), H: 12.57% (12.72%), and N: 16.25% (16.07%), wherein the percentages of the parentheses are theoretical values.

reactant | ethylamine | 0.04 mol | C(C)N | C2H7N
reactant | BuLi | 0.04 mol | [Li]CCCC
reactant | t-butylethyldimethoxysilane | 0.02 mol | C(C)(C)(C)[Si](OC)(OC)CC | C8H20O2Si
reactant | methylamine | CN | CH5N
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | bis(methylamino)-t-butylethylsilane | CN[Si](CC)(C(C)(C)C)NC | C8H22N2Si
